US04380644
6.7 g of tert.-butyl (4S)-1-n-butyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate, 0.1 g of palladium-black and 200 ml of methanol are treated in the same manner as described in Example 1-(3). 3.8 g of tert.-butyl (4S)-1-n-butyl-2-oxo-imidazolidine-4-carboxylate are obtained as colorless syrup. Yield: 88.1%

reactant | tert.-butyl (4S)-1-n-butyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 6.7 g | C(CCC)N1C(N([C@@H](C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)=O | C20H28N2O5
catalyst | palladium-black | 0.1 g | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | tert.-butyl (4S)-1-n-butyl-2-oxo-imidazolidine-4-carboxylate | 3.8 g, Yield: 88.1% | C(CCC)N1C(N[C@@H](C1)C(=O)OC(C)(C)C)=O | C12H22N2O3
